US05834499
Example 3 2-(3-Phthalimidopropyl)-8H-indeno[1,2-d]thiazole Starting compound
2-Bromo-1-indanone, 4-phthalimidobutanethioamide

reactant | 2-Bromo-1-indanone | BrC1C(C2=CC=CC=C2C1)=O | C9H7BrO
reactant | 4-phthalimidobutanethioamide | C1(C=2C(C(N1CCCC(N)=S)=O)=CC=CC2)=O | C12H12N2O2S
product | 2-(3-Phthalimidopropyl)-8H-indeno[1,2-d]thiazole | C1(C=2C(C(N1CCCC=1SC3=C(N1)C=1C=CC=CC1C3)=O)=CC=CC2)=O | C21H16N2O2S
